US04582854
[1α,2β(2R,S),3β,4α]]-7-[3-[3-[(Hexyloxy)methyl]-7-oxabicyclo[2.2.1]hept-2-yl]-2-methylheptanoic acid, methyl ester
A solution of dry diisopropyl amine (0.561 ml, 4.0 mmole) in dry THF (15 ml) was cooled and stirred in a bath at -78° (dry ice-acetone) under nitrogen and 1.65M n-BuLi in hexane (1.88 ml, 3.1 mmole) was added dropwise. After 5.0 minutes, a solution of the Example 63 methyl ester (1.06 g, 3.0 mmole) in dry THF (10 ml) was added dropwise in about 5 minutes. After another 15 minutes, a solution of dry hexamethylphosphorous amide (HMPA) (2.0 ml) in dry THF (2.0 ml) was added, followed by CH3I (1.68 ml, 27 mmole). After 3 hours, the mixture was poured into cold 10% hydrochloric acid (100 ml) and was extracted with ether (3×100 ml). The extracts were combined, washed with dilute brine, dried (MgSO4 anhydrous), evaporated and the resulting oil was flash chromatographed on silica gel (200 g, LPS-1), eluting with EtOAc-hexane (5:95) to afford, after drying in vacuo, the title compound (870 mg, 82%) as an oil, [α]D25 =(-) 3.73° (c, 3.3; CHCl3) with consistent IR, MS, H1 -NMR and C13NMR-spectral data.

reactant | diisopropyl amine | 4.0 mmole, 0.561 ml | C(C)(C)NC(C)C | C6H15N
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | n-BuLi | 1.65M | [Li]CCCC
reactant | hexane | 3.1 mmole, 1.88 ml | CCCCCC | C6H14
reactant | hexamethylphosphorous amide | 2.0 ml | COP(N(C)C)(OC)(C)C | C6H18NO2P
reactant | CH3I | 27 mmole, 1.68 ml | CI | CH3I
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | THF | 2.0 ml | C1CCOC1 | C4H8O
product | 3-[3-[(Hexyloxy)methyl]-7-oxabicyclo[2.2.1]hept-2-yl]-2-methylheptanoic acid, methyl ester | C(CCCCC)OCC1C(C2CCC1O2)C(C(C(=O)OC)C)CCCC | C22H40O4
